US06936602B1
A mixture of methyl 7-bromo-1-(N-methyl-4-sulfamoylphenyl)-2,3-dihydro-1H-1-benzazepine-4-carboxylate (1 g), 4-(2-butoxyethoxy)phenyl borate (0.69 g), 1M potassium carbonate solution (8 ml), ethanol (8 ml) and toluene (100 ml) was stirred under argon atmosphere at room temperature for 30 minutes. To the mixture was added tetrakis(triphenylphosphine)palladium (0.13 g), and the mixture was refluxed under argon atmosphere for 2.5 hours and extracted with ethyl acetate. The organic layer was washed with water and saturated brine and dried with anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure and the residue was purified with silica gel column chromatography (ethyl acetate/hexane) to give methyl 7-[4-(2-butoxyethoxy)phenyl]-1-(N-methyl4-sulfamoylphenyl)-2,3-dihydro-1H-1-benzazepine-4-carboxylate (1.1 g) as colorless crystals.

reactant | methyl 7-bromo-1-(N-methyl-4-sulfamoylphenyl)-2,3-dihydro-1H-1-benzazepine-4-carboxylate | 1 g | BrC=1C=CC2=C(C=C(CCN2C2=CC=C(C=C2)S(NC)(=O)=O)C(=O)OC)C1 | C19H19BrN2O4S
reactant | 4-(2-butoxyethoxy)phenyl borate | 0.69 g | B(OC1=CC=C(C=C1)OCCOCCCC)([O-])[O-]
reactant | potassium carbonate | 1M, 8 ml | C([O-])([O-])=O.[K+].[K+]
reactant | ethanol | 8 ml | C(C)O | C2H6O
catalyst | tetrakis(triphenylphosphine)palladium | 0.13 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
product | methyl 7-[4-(2-butoxyethoxy)phenyl]-1-(N-methyl4-sulfamoylphenyl)-2,3-dihydro-1H-1-benzazepine-4-carboxylate | 1.1 g | C(CCC)OCCOC1=CC=C(C=C1)C=1C=CC2=C(C=C(CCN2C2=CC=C(C=C2)S(NC)(=O)=O)C(=O)OC)C1 | C31H36N2O6S
